US04348264
Benzhydryl 1-Acetoxy-2-methylcarbapenam-3-carboxylate
Freshly prepared benzhydryl 1-hydroxy-2-methylcarbapenam-3-carboxylate (53 mg., 0.15 mmoles) was dissolved in 5 ml. of methylene chloride and cooled to -10° C. Pyridine (12 mg., 0.15 mmoles), acetic anhydride (15.4 mg., 0.15 mmoles) and 4-dimethylaminopyridine (18.4 mg., 0.15 mmoles) were added and the mixture stirred for 1 hour at -10° C., at which time tlc (4:1 chloroform:ethyl acetate) indicated clean conversion to the acetate ester. The reaction mixture was chromatographed on silicia gel (9:1 methylene chloride:ethyl acetate eluant), yielding purified benzhydryl 1-acetoxy-2-methylcarbapenam-3-carboxylate [Rf 0.65 (4:1 chloroform:ethyl acetate)].

reactant | benzhydryl 1-hydroxy-2-methylcarbapenam-3-carboxylate | 0.15 mmoles, 53 mg | OC1C(C(N2[C@H]1CC2=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C | C21H21NO4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | Pyridine | 0.15 mmoles, 12 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.15 mmoles, 15.4 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.15 mmoles, 18.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Benzhydryl 1-Acetoxy-2-methylcarbapenam-3-carboxylate | C(C)(=O)OC1C(C(N2[C@H]1CC2=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C | C23H23NO5
